US07893267B2
5.0 g (23.3 mmol) of 3-amino-5-fluoro-2-nitro-benzoic acid methyl ester was dissolved in ethanol and treated with 2.6 g (25.6 mmol) of triethylamine and 1.8 g (25.6 mmol) of NaOEt. The reaction was heated at 60° C. for 0.5 h to produce 3-amino-5-ethoxy-2-nitro-benzoic acid ethyl ester. LCMS: 255 (M+1)+.

reactant | 3-amino-5-fluoro-2-nitro-benzoic acid methyl ester | 23.3 mmol, 5.0 g | COC(C1=C(C(=CC(=C1)F)N)[N+](=O)[O-])=O | C8H7FN2O4
reactant | triethylamine | 25.6 mmol, 2.6 g | C(C)N(CC)CC | C6H15N
reactant | NaOEt | 25.6 mmol, 1.8 g | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-5-ethoxy-2-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC(=C1)OCC)N)[N+](=O)[O-])=O | C11H14N2O5
